US05455237
3-(2-Bromophenyl)-6-(2,6-difluorophenyl)-1,2,4,5-tetrazine
A solution of 0.26 g of sodium nitrite in 1 ml of water is dropped to a solution containing 0.62 g of 3-(2-bromophenyl)-6-(2,6-difluorophenyl)-1,2-dihydro-1,2,4,5-tetrazine [prepared in the preceeding step c.)] in 2 ml of glacial acetic acid at room temperature under stirring. The progress of the reaction is followed by thin layer chromatography (TLC). The reddish-violet crystals are filtered, washed with water until neutral and dried to give 0.59 g of crystalline desired product, i.e. the title compound of Example 1. This crude product is recrystallized from a mixture of gasoline and acetone, m.p.: 168° C.

reactant | sodium nitrite | 0.26 g | N(=O)[O-].[Na+]
reactant | 3-(2-bromophenyl)-6-(2,6-difluorophenyl)-1,2-dihydro-1,2,4,5-tetrazine | 0.62 g | BrC1=C(C=CC=C1)C=1NNC(=NN1)C1=C(C=CC=C1F)F | C14H9BrF2N4
solvent | water | 1 ml | O | H2O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 3-(2-Bromophenyl)-6-(2,6-difluorophenyl)-1,2,4,5-tetrazine | 0.59 g | BrC1=C(C=CC=C1)C=1N=NC(=NN1)C1=C(C=CC=C1F)F | C14H7BrF2N4
